US06352982B1
In methanol (20 ml) were dissolved 2-amino-5-chloro-α-(3-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol (0.6 g) and 3,4-dibenzyloxybenzaldehyde (0.55 g). To the solution were added acetic acid (0.12 g) and cyano sodium borohydride (0.13 g). The mixture was stirred for 1.5 hour at 60° C. The reaction mixture was concentrated, to which were added water (50 ml) and ethyl acetate (80 ml), followed by extraction. The organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off to leave 2-(3,4-dibenzyloxybenzyl)amino-5-chloro-α-(3-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol (0.83 g) as colorless crystals, m.p.: 118-120° C.

reactant | 2-amino-5-chloro-α-(3-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol | 0.6 g | NC1=C(C(C2=CC(=CC=C2)CNC(=O)OC(C)(C)C)O)C=C(C=C1)Cl | C19H23ClN2O3
reactant | 3,4-dibenzyloxybenzaldehyde | 0.55 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1OCC1=CC=CC=C1 | C21H18O3
reactant | acetic acid | 0.12 g | C(C)(=O)O | C2H4O2
reactant | cyano sodium borohydride | 0.13 g | [BH4-].C(#N)[Na]
solvent | methanol | 20 ml | CO | CH4O
product | 2-(3,4-dibenzyloxybenzyl)amino-5-chloro-α-(3-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol | 0.83 g | C(C1=CC=CC=C1)OC=1C=C(CNC2=C(C(C3=CC(=CC=C3)CNC(=O)OC(C)(C)C)O)C=C(C=C2)Cl)C=CC1OCC1=CC=CC=C1 | C40H41ClN2O5
